US04751244
Parenteral Solution of Sodium (E)-4-[2,3-Dichloro-4-(2-nitro-1-butenyl)phenoxy]butyrate
250 mg of (E)-4-[2,3-dichloro-4-(2-nitro-1-butenyl)phenoxy]butyric acid is dissolved in 3.1 ml of 0.1 N sodium bicarbonate and sufficient isotonic buffer to make a final volume of 10 ml. The water from all sources was pyrogen-free. The solution is sterilized by filtration.

reactant | (E)-4-[2,3-dichloro-4-(2-nitro-1-butenyl)phenoxy]butyric acid | 250 mg | ClC1=C(OCCCC(=O)O)C=CC(=C1Cl)\C=C(/CC)\[N+](=O)[O-] | C14H15Cl2NO5
reactant | water | O | H2O
reactant | sodium bicarbonate | 0.1 N, 3.1 ml | C([O-])(O)=O.[Na+]
product | Sodium (E)-4-[2,3-Dichloro-4-(2-nitro-1-butenyl)phenoxy]butyrate | ClC1=C(OCCCC(=O)[O-])C=CC(=C1Cl)\C=C(/CC)\[N+](=O)[O-].[Na+] | InChI=1S/C14H15Cl2NO5.Na/c1-2-10(17(20)21)8-9-5-6-11(14(16)13(9)15)22-7-3-4-12(18)19;/h5-6,8H,2-4,7H2,1H3,(H,18,19);/q;+1/p-1/b10-8+;
